US04948804
1-benzoyl 5-propyloxy pyrrolidin-2-one
17 cm3 of a 1.5M solution of n-butyllithium in n-hexane is added at -60° C. to a solution of 4 g of 5-(1-butyloxy) pyrrolidin-2-one in 90 cm3 of tetrahydrofuran. The whole is agitated for 15 minutes at -60° C. then, at this temperature, a solution of 3.58 g of benzoyl chloride in 25 cm3 of tetrahydrofuran is added. After allowing the temperature to return to the ambient, the solvent is evaporated under reduced pressure and the residue is chromatographed on silica (eluent: ethyl acetate-n-hexane 1-3) and 4 g of expected product is obtained. b.p. =200°-210° C. under 0.07 mbar.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 5-(1-butyloxy) pyrrolidin-2-one | 4 g | C(CCC)OC1CCC(N1)=O | C8H15NO2
reactant | benzoyl chloride | 3.58 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 90 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 cm3 | O1CCCC1 | C4H8O
product | 1-benzoyl 5-propyloxy pyrrolidin-2-one | 4 g | C(C1=CC=CC=C1)(=O)N1C(CCC1OCCC)=O | C14H17NO3
